US06797726B1
In 3.2 mL of ethyl acetate is dissolved 0.54 g of 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}ethyl pivalate, to which is added 0.53 ml of 3.6 mol/L solution of dry hydrogen chloride in ethyl acetate. The mixture is stirred at ambient temperature for one hour. The reaction mixture is diluted with 5 mL of diisopropyl ether and stirred at ambient temperature for one hour. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 0.46 g of 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl](methyl)amino}ethyl pivalate hydrochloride.

reactant | 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}ethyl pivalate | 0.54 g | C(C(C)(C)C)(=O)OCCN(C)CCOCCC1=CC2=C(SC=C2)C=C1 | C20H29NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 3.2 mL | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 5 mL | C(C)(C)OC(C)C | C6H14O
product | 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl](methyl)amino}ethyl pivalate hydrochloride | 0.46 g | Cl.C(C(C)(C)C)(=O)OCCN(C)CCOCCC1=CC2=C(SC=C2)C=C1 | InChI=1S/C20H29NO3S.ClH/c1-20(2,3)19(22)24-13-10-21(4)9-12-23-11-7-16-5-6-18-17(15-16)8-14-25-18;/h5-6,8,14-15H,7,9-13H2,1-4H3;1H
